US04487929
1.8 g of 2-acetylthiomethyl-hexahydro-3-oxo-1H-pyrazolo[1,2-a]pyridazine-5-carboxylic acid were heated at 95° C. for 1.5 hours in 2 M hydrochloric acid. The mixture was cooled, the pH was adjusted to 3 by the addition of disodium hydrogen orthophosphate and the aqueous solution was extracted repeatedly with ethyl acetate. The organic extracts were dried over magnesium sulfate and evaporated. After recrystallization of the residue from acetone, there were obtained 1.1 g of hexahydro-2-mercaptomethyl-3-oxo-1H- pyrazolo[1,2-a]pyridazine-5-carboxylic acid having a melting point of 145.5°-147° C.

reactant | 2-acetylthiomethyl-hexahydro-3-oxo-1H-pyrazolo[1,2-a]pyridazine-5-carboxylic acid | 1.8 g | C(C)(=O)SCC1C(N2N(CCCC2C(=O)O)C1)=O | C11H16N2O4S
reactant | disodium hydrogen orthophosphate | P(=O)(O)([O-])[O-].[Na+].[Na+]
solvent | hydrochloric acid | 2 M | Cl | ClH
product | hexahydro-2-mercaptomethyl-3-oxo-1H- pyrazolo[1,2-a]pyridazine-5-carboxylic acid | 1.1 g | SCC1C(N2N(CCCC2C(=O)O)C1)=O | C9H14N2O3S
